US07592373B2
4.32.b. 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenyl}amide
Prepared analogously to Example 2.3.f. from (2-chloro-4-trifluoromethylphenyl)propynoic acid and 3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenylamine. Yield: 0.21 g (45.3% of theory); C24H23Cl2F3N2O (M=483.36); calc.: molecular ion peak (M+H)+: 483/485/487; found: molecular ion peak (M+H)+: 483/485/487; Rf value: 0.65 (Alox, petroleum ether/ethyl acetate (1:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | 3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenylamine | ClC=1C=C(C=CC1CCN1CCC(CC1)C)N | C14H21ClN2
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenyl}amide | ClC=1C=C(C=CC1CCN1CCC(CC1)C)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C24H23Cl2F3N2O
